US06642229B2
To a degassed solution of trifluoromethanesulfonic acid 3-(7-methyl-imidazo[1,2-a]pyrimidin-3-yl)phenyl ester (2.53 g, 7 mmol) in 1,4-dioxane (25 ml) was added potassium acetate (2.08 g, 21 mmol), bis(pinacolato)diboron (1.97 g, 7.8 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (0.258 g, 0.35 mmol) and the mixture heated at 80° C. for 22 h. After cooling to ambient temperature the reaction was poured into water, extracted with ethyl acetate (3×100 ml) and the combined organics were dried over magnesium sulfate. Filtration and evaporation in vacuo gave a dark oil which was chromatographed on silica gel, eluting with a gradient of 1 to 10% methanol in dichloromethane. Appropriate fractions were pooled and evaporated to give 7-methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]imidazo[1,2-a]pyrimidine as a cream coloured solid (1.97 g): δH (400 MHz, CDCl3) 1.36 (12H, s), 6.77 (1H, d, J 7), 7.52 (1H, m), 7.59 (1H, m), 7.80 (1H, s), 7.87 (1H, m), 7.95 (1H, s), 8.50 (1H, d, J 7); m/z (ES+) 336 (M++H).

reactant | trifluoromethanesulfonic acid 3-(7-methyl-imidazo[1,2-a]pyrimidin-3-yl)phenyl ester | 7 mmol, 2.53 g | CC1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F | C14H10F3N3O3S
reactant | potassium acetate | 21 mmol, 2.08 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 7.8 mmol, 1.97 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | water | O | H2O
solvent | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) | 0.35 mmol, 0.258 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]imidazo[1,2-a]pyrimidine | CC1=NC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C | C19H22BN3O2
